US09084794B2
b) 2-bromo-2-(4-bromo-2-fluorophenyl)-N-methylacetamide
A solution of 2-(4-bromo-2-fluorophenyl)-N-methylacetamide (2.479 mmol) in carbon tetrachloride (5 mL) was degassed with a stream of nitrogen for five minutes, at which point the solution was treated with N-bromosuccinimide (2.73 mmol) and azobisisobutyronitrile (0.248 mmol). The reaction vessel was purged with nitrogen and sealed, and the mixture stirred at 80° C. overnight. After stirring overnight, the reaction was cooled to room temperature. The reaction mixture was degassed again with a stream of nitrogen for three minutes and was treated with N-bromosuccinimide (0.56 mmol) and azobisisobutyronitrile (0.124 mmol). The reaction vessel was purged with nitrogen and sealed, and the mixture stirred at 80° C. for two days. The reaction was then allowed to cool and was concentrated to dryness in vacuo. Purification of the residue by silica gel chromatography (0-50% ethyl acetate/hexanes) afforded the title compound as a white solid (296 mg, 33% yield). 1H NMR (400 MHz, DMSO-d6) d ppm 2.65 (d, J=4.55 Hz, 3 H) 5.81 (s, 1 H) 7.49 (dd, J=8.59, 1.77 Hz, 1 H) 7.61 (dd, J=9.98, 1.89 Hz, 1 H) 7.72 (t, J=8.21 Hz, 1 H) 8.49 (br. s., 1 H).

reactant | 2-(4-bromo-2-fluorophenyl)-N-methylacetamide | 2.479 mmol | BrC1=CC(=C(C=C1)CC(=O)NC)F | C9H9BrFNO
reactant | N-bromosuccinimide | 2.73 mmol | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azobisisobutyronitrile | 0.248 mmol | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | N-bromosuccinimide | 0.56 mmol | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azobisisobutyronitrile | 0.124 mmol | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | 5 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-bromo-2-(4-bromo-2-fluorophenyl)-N-methylacetamide | 296 mg, 33% yield | BrC(C(=O)NC)C1=C(C=C(C=C1)Br)F | C9H8Br2FNO
